US04500518
(e) (S)-β-(Benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanoic acid, methyl ester
To a solution of freshly distilled diisopropylamine (2.07 ml., 14.8 mmole) in dry tetrahydrofuran (20 ml.) at 0° under argon is added a hexane solution of n-butyl lithium (6.02 ml. of a 2.4 M solution, 14.5 mmole). After stirring at 0° for 30 minutes, the resulting solution of lithium diisopropylamide is cooled to -78° and a solution of (S)-β-(benzoylamino)-benzenebutanoic acid, methyl ester (2.0 g., 6.72 mmole) in tetrahydrofuran (20 ml.) is added dropwise over a period of 5 minutes. After stirring at -78° for 15 minutes, a solution of (4-methoxyphenyl)methyl disulfide (2.5 g., 8.07 mmole) in tetrahydrofuran (9 ml.) is added. After 5 minutes at -78°, the mixture is warmed to 0° and stirring continued for 45 minutes. The reaction is quenched with 1N hydrochloric acid and diluted with ethyl acetate. The resulting solution is washed with water, 1N hydrochloric acid, 1N sodium bicarbonate, and brine. After drying over anhydrous MgSO4, the solvent is removed at reduced pressure and the residue is flash chromatographed (silica gel LPS-1; benzene:ethyl acetate, 93:7) to give 1.85 g. of pale yellow solid (S)-β-(benzoylamino)-ε-[[(4-methoxyphenyl)methyl]thio]-benzenebutanoic acid, methyl ester as a mixture of diastereomers. TLC (silica gel; benzene:ethyl acetate, 9:1) Rf =0.29 and 0.26.

reactant | diisopropylamine | 14.8 mmole, 2.07 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-β-(benzoylamino)-benzenebutanoic acid, methyl ester | 6.72 mmole, 2.0 g | C(C1=CC=CC=C1)(=O)N[C@H](CC(=O)OC)CC1=CC=CC=C1 | C18H19NO3
reactant | (4-methoxyphenyl)methyl disulfide | 8.07 mmole, 2.5 g | COC1=CC=C(C=C1)SSC | C8H10OS2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
product | (S)-β-(Benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanoic acid, methyl ester | C(C1=CC=CC=C1)(=O)NC([C@@H](C(=O)OC)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C26H27NO4S
